US07851473B2
(1) tert-Butyl 4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxylate
A mixture of 2-chloro-4-phenyl-1,3-thiazole (1.16 g, 5.92 mmol), 1-(tert-butoxycarbonyl)-piperazine (3.30 g, 17.8 mmol), potassium carbonate (817 mg, 5.92 mmol) and N,N-dimethylformamide (20 ml) was stirred at 120° C. for 2 hours, poured to water, which was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=7:3) to give the desired product as a solid. The resulting solid was recrystallized from a mixed solvent of hexane and ethyl acetate to yield 1.43 g (70.1%) of the desired product.

reactant | 2-chloro-4-phenyl-1,3-thiazole | 5.92 mmol, 1.16 g | ClC=1SC=C(N1)C1=CC=CC=C1 | C9H6ClNS
reactant | 1-(tert-butoxycarbonyl)-piperazine | 17.8 mmol, 3.30 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 5.92 mmol, 817 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-Butyl 4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxylate | C1(=CC=CC=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23N3O2S
